US03957766
3-Hydrazino-6-chloropyridazine was condensed with 5-nitro-2-thiophene-aldehyde in ethanol and the 3-(5-nitro-2-thienylidene-hydrazino)-6-chloropyridazine (m.p. 306° - 308°C. decomp.) thus obtained was cyclized in glacial acetic acid with lead tetraacetate to give 3-(5-nitro-2-thienyl)-6-chloro-s-triazolo[4,3-b]pyridazine (m.p. 215° - 217°C.) and this subsequently reacted with hydrazine hydrate in isopropanol.

reactant | 3-Hydrazino-6-chloropyridazine | N(N)C=1N=NC(=CC1)Cl | C4H5ClN4
reactant | 5-nitro-2-thiophene-aldehyde | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
solvent | ethanol | C(C)O | C2H6O
product | 3-(5-nitro-2-thienylidene-hydrazino)-6-chloropyridazine | [N+](=O)([O-])C1=CCC(S1)=NNC=1N=NC(=CC1)Cl | C8H6ClN5O2S
